US05571809
Using a procedure analogous to that described in Example 2, the product 6,11-dihydro-6-methyl-11-propyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one, m.p. 96°-98° C. (recrystal from petroleum ether) was prepared from 6,11-dihydro-6-methyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one and 1-iodopropane. The yield was 36% of theory.

reactant | 6,11-dihydro-6-methyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | CN1C(C2=C(NC3=C1C=CC=C3)N=CC=C2)=O | C13H11N3O
reactant | 1-iodopropane | ICCC | C3H7I
product | 6,11-dihydro-6-methyl-11-propyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | yield was 36% | CN1C(C2=C(N(C3=C1C=CC=C3)CCC)N=CC=C2)=O | C16H17N3O
